US06673797B1
(1) Preparation of 1-Benzenesulfonyl-5-methylthioindole-2-carboxylic Acid Methyl Ester
A mixture of 1-benzenesulfonyl-5-methylthioindole-2-carboxylic acid (3.5 g), sulfuric acid (10 ml) and methanol (10 ml) was heated under reflux for 12 hours. The reaction mixture was poured into ice-water and the mixture was extracted with dichloromethane. The organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (dichloromethane) to obtain 3.4 g of the desired product as a white crystal.

reactant | 1-benzenesulfonyl-5-methylthioindole-2-carboxylic acid | 3.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)C)C(=S)O | C16H13NO3S2
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 ml | CO | CH4O
product | 1-Benzenesulfonyl-5-methylthioindole-2-carboxylic Acid Methyl Ester | 3.4 g | COC(=S)C=1N(C2=CC=C(C=C2C1)C)S(=O)(=O)C1=CC=CC=C1 | C17H15NO3S2
